US06703387B2
To a solution of 1.28 g (6.49 mmol) of cinnamyl bromide in 8 ml of ethanol at room temperature under an atmosphere of nitrogen was added a solution of 1 g (6.49 mmol) of thiosalicylic acid in 5.3 ml of 10% aqueous sodium hydroxide solution. The solution was stirred at room temperature for 16 hours and the solvent then removed under reduced pressure. The residue was dissolved in water and concentrated hydrochloric acid was added. The resultant solid was filtered off and dried. There was obtained 1.7 g of 2-styrylsulfanylbenzoic acid as a white solid, MS: m/e 270 M+.

reactant | cinnamyl bromide | 6.49 mmol, 1.28 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | thiosalicylic acid | 6.49 mmol, 1 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 5.3 ml | [OH-].[Na+]
product | 2-styrylsulfanylbenzoic acid | 1.7 g | C(=CC1=CC=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C15H12O2S
